US04005244
One mole of neopentyl glycol (viz., 2,2-dimethylpropane-1,3-diol) is reacted with two moles ethylene oxide to produce 5,5-dimethyl-3,7-dioxanonane-1,9-diol. One mole of 5,5-dimethyl-3,7-dioxanonane-1,9-diol is reacted with two moles acrylic acid to produce 1,9-diacrylyloxy-5,5-dimethyl-3,7-dioxanonane.

reactant | 5,5-dimethyl-3,7-dioxanonane-1,9-diol | One mole | CC(COCCO)(COCCO)C | C9H20O4
reactant | acrylic acid | two moles | C(C=C)(=O)O | C3H4O2
product | 1,9-diacrylyloxy-5,5-dimethyl-3,7-dioxanonane | C(C=C)(=O)OCCOCC(COCCOC(C=C)=O)(C)C | C15H24O6
